US08530517B2
A mixture of (E)-3-(3′-adamantan-1yl-4′-hydroxybiphenyl-4-yl)acrylic acid tert-butyl ester (250 mg, 0.581 mmol) and K2CO3 (241 mg, 1.74 mmol) in water (2.9 ml) was stirred at RT for 30 min. Tetrabutylammonium hydrogen sulfate (197 mg, 0.581 mmol) and DCM (1.4 ml) were then added and the stirring maintained for further 10 min. A solution of carbonic acid iodomethyl ester propyl ester (184 mg, 0.755 mmol) in DCM (1.4 ml) was then added dropwise. The biphasic solution was stirred overnight at RT. After standard work-up and removal of the solvent under reduced pressure, the residue was taken up in Et2O. Tetrabutylammonium iodide was filtered off and the solvent was evaporated. (E)-3-(3′-Adamantan-1-yl-4′-propoxycarbonyloxymethoxy-biphenyl-4-yl)acrylic acid tert-butyl ester was obtained (117 mg, 36%) after purification on silica gel (EtOAc/hexane 12:88).

reactant | (E)-3-(3′-adamantan-1yl-4′-hydroxybiphenyl-4-yl)acrylic acid tert-butyl ester | 0.581 mmol, 250 mg | C(C)(C)(C)OC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C12CC3CC(CC(C1)C3)C2)=O | C29H34O3
reactant | K2CO3 | 1.74 mmol, 241 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | carbonic acid iodomethyl ester propyl ester | 0.755 mmol, 184 mg | C(CC)OC(OCI)=O | C5H9IO3
solvent | water | 2.9 ml | O | H2O
catalyst | Tetrabutylammonium hydrogen sulfate | 0.581 mmol, 197 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 1.4 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.4 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-(3′-Adamantan-1-yl-4′-propoxycarbonyloxymethoxy-biphenyl-4-yl)acrylic acid tert-butyl ester | C(C)(C)(C)OC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)OCOC(=O)OCCC)C12CC3CC(CC(C1)C3)C2)=O | C34H42O6
